US06992087B2
Preparation of 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine
Following the procedure of 2-bromo-5-(2,4-dichlorophenyl)-3,6-dimethylpyrazine but substituting 3-(2,4-dichlorophenyl)-2,5-diethylpyrazine 1-oxide and making non-critical variations provided the title compound as an oil: 1H NMR (CDCl3) δ 1.19 7.5, 1.33, 2.63, 3.02, 7.28, 7.39, 7.54; MS (ESI+) for C14H13Br1Cl2N2 m/z 361.1 (M+H)+.

reactant | 2-bromo-5-(2,4-dichlorophenyl)-3,6-dimethylpyrazine | BrC1=NC(=C(N=C1C)C1=C(C=C(C=C1)Cl)Cl)C | C12H9BrCl2N2
reactant | 3-(2,4-dichlorophenyl)-2,5-diethylpyrazine 1-oxide | ClC1=C(C=CC(=C1)Cl)C=1C(=[N+](C=C(N1)CC)[O-])CC | C14H14Cl2N2O
product | 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine | BrC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C14H13BrCl2N2
